US06703347B2
A solution of lithium diisopropylamide (2.0M solution in tetrahydrofuran/ethylbenzene/heptane, 34.0 ml, 0.0667 mol) was added dropwise to a solution of methyl 4-methoxyphenylacetate (12.0 g, 0.0667 mol) in tetrahydrofuran (150 ml) at −70° C. under a nitrogen atmosphere and the mixture was stirred at −70° C. for 1 hour. A solution of methyl iodide (9.5 g, 0.0667 mol) in tetrahydrofuran (20 ml) was added dropwise and the mixture was stirred at −70° C. for a further 1 hour. The cooling bath was removed and the mixture was allowed to warm to room temperature overnight. The reaction was quenched with water, acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate:hexane 1:9, to give methyl 2-(4-methoxyphenyl)propionate (8.8 g) as a colourless oil.

reactant | lithium diisopropylamide | 0.0667 mol, 2.0M, 34.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 4-methoxyphenylacetate | 0.0667 mol, 12.0 g | COC1=CC=C(C=C1)CC(=O)OC | C10H12O3
reactant | methyl iodide | 0.0667 mol, 9.5 g | CI | CH3I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 2-(4-methoxyphenyl)propionate | 8.8 g | COC1=CC=C(C=C1)C(C(=O)OC)C | C11H14O3
